data/mechanism_extracts/EurJOC/10.1002_ejoc.202100640.json
{"doi": "10.1002_ejoc.202100640", "journal": "EurJOC", "is_review": false, "rxn_class_summary": "Electrochemical bromide-mediated oxybromination of allylic oximes to form 2-bromomethyl-2-isoxazolines using DMSO as oxygen-free mediator partner", "mechanism_family": ["mediator_anodic", "radical_anodic"], "electrochemical_role": "Anodic oxidation of bromide (Br-) to bromine/tribromide (Br3-), which serves as the active brominating mediator; cathode reduces water to H2 and generates hydroxide that deprotonates the oxime", "key_intermediates": [{"name": "bromine radical (Br•)", "smiles": "[Br]", "role": "transient"}, {"name": "molecular bromine Br2", "smiles": "BrBr", "role": "transient"}, {"name": "tribromide anion Br3-", "smiles": "Br[Br-]Br", "role": "reactive"}, {"name": "bromo-dimethylsulfonium / bromosulfoxonium intermediate A (DMSO-Br+)", "smiles": null, "role": "reactive"}, {"name": "open-chain bromonium-DMSO adduct B from alkene addition", "smiles": null, "role": "reactive"}, {"name": "bromonium intermediate C of allylic oxime", "smiles": null, "role": "reactive"}, {"name": "2-bromomethyl-2-isoxazoline product 2a (5-exo-trig)", "smiles": null, "role": "reactive"}, {"name": "6-endo-trig by-product 3a (1,2-oxazine)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode performs 1e- oxidation of Br- to Br•, which dimerizes to Br2 and is sequestered by Br- as Br3-; Br3- brominates DMSO to electrophile A, which transfers Br+ to the alkene of the allylic oxime to give bromonium/sulfonium adduct B (major) or bromonium C (minor); intramolecular oxa-cyclization by the oxime hydroxyl (5-exo-trig) delivers the isoxazoline, while the cathode reduces H2O to H2 and OH- to deprotonate the oxime.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction fully suppressed (0% of 2a) with 3 equiv TEMPO, implying involvement of a radical species in the catalytic cycle"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Bromine-trapped adduct 5 (Ph2C=CHBr / bromo-DPE) detected by GCMS, supporting participation of a bromine radical"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "Two cyclization pathways are proposed from intermediate A: major pathway goes through DMSO-bromonium adduct B and then ring-closes to 2a; minor pathway invokes a free bromonium C from the oxime which can either close 5-exo-trig (path a → 2a) or 6-endo-trig (path b → by-product 3a, 1,2-oxazine). DMSO acts as Br+ shuttle; in-situ generated hydroxide at the cathode serves as base for oxime deprotonation."}
